US04069046
A phenoxy resin is prepared by initially dispersing about 2 parts of polymethylene polyphenyl isocyanate (PAPI, available from the Corwin Chemical Company) in a solvent blend consisting of about 10 parts methyl ethyl ketone and about 20 parts cyclohexanone. About 1.5 parts bisphenol-A is added to the above prepared solution and the mixture is agitated by means of a stirrer until solution of the bisphenol-A is achieved. About 0.7 parts 9-dicyanomethylene-2,4,7-trinitro-fluorene is added to the above prepared solution and stirred as before to achieve solution.

reactant | isocyanate | [N-]=C=O
reactant | cyclohexanone | C1(CCCCC1)=O | C6H10O
reactant | bisphenol-A | OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O | C15H16O2
reactant | 9-dicyanomethylene-2,4,7-trinitro-fluorene | C(#N)C(=C1C2=CC(=CC=C2C=2C(=CC(=CC12)[N+](=O)[O-])[N+](=O)[O-])[N+](=O)[O-])C#N | C16H5N5O6
solvent | methyl ethyl ketone | C(C)C(=O)C | C4H8O
product | phenoxy resin | CC(=C1C=CC=CC1C2=CC=C(C=C2)OCC(CO)O)C | C18H22O3
